US06362178B1
Diethyl (4-piperidinylmethyl)-phosphonate
2.11 g (528 mmol) of 60% strength sodium hydride are initially charged in 50 ml of absolute tetrahydrofuran, and 15.7 g (52.8 mmol) of diethyl methanediphosphonate are added dropwise. The mixture is stirred at room temperature for another 30 minutes, and 10.1 g (52.8 mmol) of 1-benzyl-4-piperidone are then added. The mixture is stirred for one hour at room temperature and for one hour under reflux, concentrated, admixed with water and extracted three times with dichloromethane, and the organic phases are dried over sodium sulphate and concentrated. The residue is hydrogenated in 50 ml of ethanol over 1.7 g of 10% palladium-carbon at room temperature and 3 bar. The catalyst is filtered off with suction and the filtrate is concentrated.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl methanediphosphonate | 52.8 mmol, 15.7 g | C(P(OCC)(=O)OCC)P([O-])(=O)[O-]
reactant | 1-benzyl-4-piperidone | 52.8 mmol, 10.1 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Diethyl (4-piperidinylmethyl)-phosphonate | N1CCC(CC1)CP(OCC)(OCC)=O | C10H22NO3P
